US08183271B2
Methyl 4-(7-cyano-3-hydroxymethylheptyl)benzoate
33 ml (33 mmol) of a 1 M borane-THF complex solution are added dropwise to a solution of 5 g (16.48 mmol) of methyl 4-(3-carboxy-7-cyanoheptyl)benzoate in 62 ml of THF at −15° C., and the solution is stirred at this temperature for 2 hours. Then a further 16 ml (16 mmol) of 1 M borane-THF complex solution are added dropwise at −15° C., and stirring is continued for 45 minutes. The reaction mixture is then warmed to 0° C. and stirred at this temperature for 1 hour. After reaction is complete, 100 ml of saturated bicarbonate solution are added to the reaction mixture, and the solvent is concentrated to dryness. The residue is taken up in ethyl acetate and water, and the aqueous phase is extracted again with ethyl acetate. The combined organic phases are dried over sodium sulfate and again freed of solvent. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 2:1→1:3→100% ethyl acetate). 2.4 g (93% purity, 47% of theory) of a colorless solid are obtained.

reactant | methyl 4-(3-carboxy-7-cyanoheptyl)benzoate | 16.48 mmol, 5 g | C(=O)(O)C(CCC1=CC=C(C(=O)OC)C=C1)CCCCC#N | C17H21NO4
reactant | bicarbonate | 100 ml | C([O-])(O)=O
solvent | THF | 62 ml | C1CCOC1 | C4H8O
product | Methyl 4-(7-cyano-3-hydroxymethylheptyl)benzoate | C(#N)CCCCC(CCC1=CC=C(C(=O)OC)C=C1)CO | C17H23NO3
